US06172081B2
1-[1,2,3,4-tetrahydro-6,7-dimethoxy-3-isoquinolinyl]carbonyl-2-Pyrrolidinecarbonitrile [Diastereomer B].
Trifluoroacetic acid (1.2 mL, 15.6 mmol) was added to a solution of the title A compound, 3-(2-cyano-1-pyrrolidinyl)carbonyl-3,4-dihydro-6,7-dimethoxy-2(1H)-isoquinolinecarboxylic acid 1,1-dimethylethyl ester [Diastereomer B] (196 mg, 0.47 mmol) in acetonitrile (9 mL) at room temperature overnight. The mixture was then concentrated under vacuum. The residue was taken up in another portion of acetonitrile (8 mL) and concentrated again under vacuum. The brown oily residue was triturated with ether to form a solid which was collected and washed with ether and dried under vacuum to give 157 mg (78%) of the title compound as a yellow solid, 88% pure by HPLC, m.p. 153-154° C. (dec). 1H NMR (CD3OD, 300 MHz): 6.85 (s, 1H), 6.8 (s, 1H), 4.85 (dd, 1H), 4.55 (dd, 1H), 4.35 (2, 2H), 3.8 (s, 6H), 3.6-3.8 (m, 2H), 3.4 (dd, 1H), 3.1 (dd, 1H), 2.1-2.4 (m, 4H). MS: 316 (MH+ for free amine).

reactant | Trifluoroacetic acid | 15.6 mmol, 1.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-(2-cyano-1-pyrrolidinyl)carbonyl-3,4-dihydro-6,7-dimethoxy-2(1H)-isoquinolinecarboxylic acid 1,1-dimethylethyl ester | 0.47 mmol, 196 mg | CC(C)(C)OC(=O)N1CC2=CC(=C(C=C2CC1C(=O)N1C(CCC1)C#N)OC)OC | C22H29N3O5
solvent | acetonitrile | 9 mL | C(C)#N | C2H3N
product | 1-[1,2,3,4-tetrahydro-6,7-dimethoxy-3-isoquinolinyl]carbonyl-2-Pyrrolidinecarbonitrile | 157 mg, 78% | COC=1C=C2CC(NCC2=CC1OC)C(=O)N1C(CCC1)C#N | C17H21N3O3
